US05563280
Preparation of 4-(2,6-dichlorophenoxy)-6-methoxycoumarin
A stirred mixture of 4-chloro-6-methoxycoumarin (1.0 g, 4.75 mmole) , 2,6-dichlorophenol (0.85 g, 5.22 mmole) and K2CO3 (0.98 g, 7.12 mmole) in acetonitrile, under N2, is heated at reflux temperature for 16 hours, cooled to room temperature and poured into ice water. This mixture is extracted several times with ether. The extracts are combined and concentrated in vacuo to give a tan solid residue. The residue is crystallized from ethyl acetate/hexane to afford the title product as tan crystals, 1.17 g (73% yield), mp 170°-171° C., identified by IR, 1HNMR, 13CNMR, and mass spectral analyses.

reactant | 4-chloro-6-methoxycoumarin | 4.75 mmole, 1.0 g | ClC1=CC(OC2=CC=C(C=C12)OC)=O | C10H7ClO3
reactant | 2,6-dichlorophenol | 5.22 mmole, 0.85 g | ClC1=C(C(=CC=C1)Cl)O | C6H4Cl2O
reactant | K2CO3 | 7.12 mmole, 0.98 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-(2,6-dichlorophenoxy)-6-methoxycoumarin | 73% yield | ClC1=C(OC2=CC(OC3=CC=C(C=C23)OC)=O)C(=CC=C1)Cl | C16H10Cl2O4
